US04841009
Into a reaction flask equipped with a magnetic stirrer and thermometer was charged 257.2 grams (2.0 moles) of p-chlorophenol, 245 grams (2.4 moles) of acetic anhydride and 200 milliliters of pyridine and the resulting reaction mixture was then heated to a temperature of 23° C.-47° C. After completion of the reaction, work-up and distillation at reduced pressure, p-chlorophenyl acetate was obtained (93 percent of theoretical). The nuclear magnetic resonance (NMR) spectrum was consistent with the chemical structure.

reactant | p-chlorophenol | 2.0 moles, 257.2 grams | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | acetic anhydride | 2.4 moles, 245 grams | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 200 milliliters | N1=CC=CC=C1 | C5H5N
product | p-chlorophenyl acetate | C(C)(=O)OC1=CC=C(C=C1)Cl | C8H7ClO2
